US04242342
1,3,6,7-Tetramethyl-2(1H)-quinoxalinone
A mixture of 3,6,7-trimethyl-2(1H)-quinoxalinone (5.0 g., 0.027 mol.), methyl iodide (15 ml.), sodium carbonate (5.0 g., 0.047 mol.) and dimethylformamide (75 ml.) were stirred at room temperature for eighteen hours, then heated at 75°-80° C. for three hours. Removal of the dimethylformamide under reduced pressure and dilution with water gave a brown solid. Crystallization from acetone (Darco) gave light tan needles. (2.85 g., m.p. 164°-166°, 53%).

reactant | 3,6,7-trimethyl-2(1H)-quinoxalinone | 0.027 mol, 5.0 g | CC=1C(NC2=CC(=C(C=C2N1)C)C)=O | C11H12N2O
reactant | methyl iodide | 15 ml | CI | CH3I
reactant | sodium carbonate | 0.047 mol, 5.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 1,3,6,7-Tetramethyl-2(1H)-quinoxalinone | CN1C(C(=NC2=CC(=C(C=C12)C)C)C)=O | C12H14N2O
